*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHSD250ELL331MJC5S
*//   Date        : 2018/02/14
*//   Update 	  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHSD250ELL331MJC5S_20deg-C 1 2

C1 4 2 2.05e-04
C2 5 2 8.02e-05
C3 6 2 3.10e-05
R1 3 4 1.06e-02
R2 4 5 4.52e-02
R3 5 6 1.98e+00
L1 1 3 5.20e-09

.ENDS
*$
